US07915424B2
3-Methoxy-5-phenylethynylpyridine
Add phenylacetylene (0.180 mL, 1.6 mmol), copper (I) iodide (0.029 g, 0.15 mmol) and bis(triphenylphosphine)palladium (II) dichloride (0.053 g, 0.08 mmol) to a solution of 3-bromo-5-methoxypyridine (0.282 g, 1.5 mmol) in degassed triethylamine (8 mL) and heat at 80° C. for 16 h. Cool the reaction mixture to room temperature, filter through diatomaceous earth, wash with ethyl acetate, and concentrate. Purify the residue by silica gel chromatography, eluting with 50:50 to 0:100 hexanes:ethyl acetate to give the title compound (0.206 g, 66%).

reactant | phenylacetylene | 1.6 mmol, 0.180 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-bromo-5-methoxypyridine | 1.5 mmol, 0.282 g | BrC=1C=NC=C(C1)OC | C6H6BrNO
solvent | triethylamine | 8 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 0.15 mmol, 0.029 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.08 mmol, 0.053 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 3-Methoxy-5-phenylethynylpyridine | 0.206 g, 66% | COC=1C=NC=C(C1)C#CC1=CC=CC=C1 | C14H11NO
